US08334301B2
4-(2-fluoropyridin-3-yl)thiophene-2-carbaldehyde
A suspension of 4-bromothiophene-2-carbaldehyde (10.0 g), 2-fluoro-3-pyridineboronic acid (9.1 g), tetrakis(triphenylphosphine)palladium (0) (3.1 g) and sodium carbonate (13.7 g) in 1,2-dimethoxyethane (100 mL) and water (50 mL) was stirred at 80° C. for 20 hr under a nitrogen atmosphere. The reaction mixture was cooled to room temperature, water was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium hydrogen carbonate solution, water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=2:1) to give the title compound as a pale-yellow solid (yield 5.8 g, yield 53%).

reactant | 4-bromothiophene-2-carbaldehyde | 10.0 g | BrC=1C=C(SC1)C=O | C5H3BrOS
reactant | 2-fluoro-3-pyridineboronic acid | 9.1 g | FC1=NC=CC=C1B(O)O | C5H5BFNO2
reactant | sodium carbonate | 13.7 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 100 mL | COCCOC | C4H10O2
solvent | water | 50 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 3.1 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(2-fluoropyridin-3-yl)thiophene-2-carbaldehyde | yield 5.8 g, yield 53% | FC1=NC=CC=C1C=1C=C(SC1)C=O | C10H6FNOS
